US07569536B2
Concentrated hydrochloric acid (1.11 ml, 13.3 mmol) and anhydrous tin dichloride (1.35 g, 7.12 mmol) were sequentially added at 0° C. to a methanol (8 ml) solution of 1,2,3,4-tetrahydro-2-[2-nitro-4-(trifluoromethyl)phenyl]isoquinoline (658 mg, 2.04 mmol), obtained as described in Referential Example 21-1. The resulting mixture was warmed to room temperature and stirred for 18 hours. A saturated aqueous solution of sodium bicarbonate was added to the mixture. The resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30 g, hexane/ethyl acetate=20/1). Thus, 2-[2-amino-4-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydroisoquinoline (426 mg, 71.4%) was yielded as a red-orange colored oily material.

reactant | hydrochloric acid | 13.3 mmol, 1.11 ml | Cl | ClH
reactant | tin dichloride | 7.12 mmol, 1.35 g | [Sn](Cl)Cl
reactant | 1,2,3,4-tetrahydro-2-[2-nitro-4-(trifluoromethyl)phenyl]isoquinoline | 2.04 mmol, 658 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1CC2=CC=CC=C2CC1 | C16H13F3N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 8 ml | CO | CH4O
product | 2-[2-amino-4-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydroisoquinoline | 426 mg, 71.4% | NC1=C(C=CC(=C1)C(F)(F)F)N1CC2=CC=CC=C2CC1 | C16H15F3N2
